US04638067
According to example 30, reacting 7-bromoacetyl-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid ethyl ester with 2-(N-acetyl-N-ethylamino)thioacetamide in ethanol gave 1-ethyl-7-[2-[(N-acetyl-N-ethylamino)methyl]-4-thiazolyl]-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid ethyl ester, mp 160°-161° C. which was then hydrolyzed in refluxing 6N hydrochloric acid to afford the title compound, mp 289°-300° C. (dec).

reactant | 7-bromoacetyl-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid ethyl ester | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)F)C(CBr)=O)CC | C16H15BrFNO4
reactant | 2-(N-acetyl-N-ethylamino)thioacetamide | C(C)(=O)N(CC)CC(=S)N | C6H12N2OS
solvent | ethanol | C(C)O | C2H6O
product | 1-ethyl-7-[2-[(N-acetyl-N-ethylamino)methyl]-4-thiazolyl]-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid ethyl ester | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)F)C=1N=C(SC1)CN(CC)C(C)=O)CC | C22H24FN3O4S
